US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution of 3.5 ml of 4N hydrochloric acid and 3.5 ml of acetic acid was added 1.38 g of ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 5 hours. After adding 5 ml of distilled water, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 1.10 g of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N, 3.5 ml | Cl | ClH
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.38 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)(C)C)C(=O)OCC)=O)F)F | C21H18BrF4N3O3
solvent | water | 5 ml | O | H2O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.10 g | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F)F | C15H6BrF4N3O3
